*.include /opt/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice
** sch_path: /home/tamnguyen/ChipDesign/openlane-docker/designs/inverter/xschem/inverter.sch
.subckt inverter A B VP VN
*.PININFO A:I B:I VP:B VN:B
XM1 B A VN VN sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=expr('int((@nf + 1)/2) * @W / @nf * 0.29') as=expr('int((@nf + 2)/2) * @W / @nf * 0.29')
+ pd=expr('2*int((@nf + 1)/2) * (@W / @nf + 0.29)') ps=expr('2*int((@nf + 2)/2) * (@W / @nf + 0.29)') nrd=expr('0.29 / @W ')
+ nrs=expr('0.29 / @W ') sa=0 sb=0 sd=0 mult=1 m=1
XM2 B A VP VP sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=expr('int((@nf + 1)/2) * @W / @nf * 0.29') as=expr('int((@nf + 2)/2) * @W / @nf * 0.29')
+ pd=expr('2*int((@nf + 1)/2) * (@W / @nf + 0.29)') ps=expr('2*int((@nf + 2)/2) * (@W / @nf + 0.29)') nrd=expr('0.29 / @W ')
+ nrs=expr('0.29 / @W ') sa=0 sb=0 sd=0 mult=1 m=1
.ends
.end
